Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Altered mental status
 
Major Surgical or Invasive Procedure:
Lumbar puncture - ___

 
History of Present Illness:
Mr. ___ is a ___ yo male with PMH of asymptomatic bradycardia, 
known pituitary macroadenoma and left temporal arachnoid cyst 
(diagnosed in ___, hypogonadism currently followed by 
Endocrinology, who was referred by ___ in ___ 
clinic for admission to the neurology service for inpatient EEG 
and medication adjustment.

Briefly, per OMR and verified with wife, Mr ___ story began 
in ___ when he began to experience nonspecific 
constitutional symptoms with headache that he describes it as a 
band around his bilateral frontal region, mild in intensity and 
present all the time, as well as anxiety and mild paranoia per 
wife. She attributed his symptoms to having recently moved. He 
was at one point seen by a doctor and confided that he was 
hearing voices. These voices would tell him to harm himself and 
his family. He was subsequently hospitalized in ___, 
where he underwent imaging as part of his work up which revealed 
a pituitary adenoma and left temporal arachnoid cyst.

He was started on Abilify 5 mg and his symptoms improved. He 
denies hearing any more voices, but he continues to have bad 
thoughts once in awhile. However, he was unable to elaborate. He 
was started on hydrocortisone on ___ by endocrinology.  He 
then developed severe insomnia, sleeping only 3 hours per day.

He became very restless pacing around the whole day unable to 
sit still. He was on steroids until  ___ after they have been 
stopped given his acute decline. Per wife, prior to the steroids 
he was still able to perform at his job as ___ who 
is an ___ artificial ___.

During steroid treatment, his Abilify was increased from ___ 
daily. 
He underwent repeat imaging to make sure the pituitary adenoma 
remained stable. Imaging at the time showed a stable 1.5 cm on 
___ - Pituitary macroadenoma that projects superiorly with 
mass affect on chiasm. He was evaluated by neurosurgery at 
___, but it was felt that surgery is not needed since vision 
is not affected. Ophthalmology was also involved and agreed that 
his vision is not affected at present.

At one point he is oversensitive to smells and sound and his 
psychiatrist is concerned that all of his symptoms including 
auditory hallucinations are due to temporal lobe epilepsy coming 
form the temporal lobe cyst and recommended neuro
eval and EEG which brought him to ___ clinic with Dr. 
___.

Because he was unable to tolerate an outpt EEG Dr. ___ 
___ admission to Neurology service.

 
Past Medical History:
Hx of asymptomatic bradycardia (Cardiac catheterization
that was negative at that time he was diagnosed a pacemaker was
offered but he declined.  He has mostly sinus bradycardia), 
known
pituitary macroadenoma (
diagnosed in ___, hypogonadism currently followed by
Endocrinology known left temporal arachnoid cyst
 
Social History:
___
Family History:
No fam hx of seizure, dementia or psychiatric illness,
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
- General: Awake, cooperative, pacing throughout the ED during
interview, flat affect
- HEENT: NC/AT
- Neck: Supple
- Pulmonary: no increased WOB
- Cardiac: well perfused 
- Abdomen: soft, nontender, nondistended
- Extremities: no edema, pulses palpated
- Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Flat affect, but pleasant. Alert, oriented x 3.
Able to relate some history, but wife has to provide details.
Attentive, able to name ___ backward without difficulty and
brisk/fast. Language is fluent with intact repetition and
comprehension. There were no paraphasic errors. Pt was able to
name both high and low frequency objects. Speech was not
dysarthric. Able to follow both midline and appendicular
commands. The pt had good knowledge of current events. There was
no evidence of neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-DTRs:  
       [Bic] [Tri] [___] [Quad] 
     L  2+    1+     2+      1+       
     R  2+    1+     2+      1+         

-Sensory: No deficits to light touch, pinprick throughout. No
extinction to DSS.

-Coordination: No intention tremor. No dysmetria on FNF 
bilaterally.

-Gait: Good initiation. Narrow-based.

========================
DISCHARGE PHYSICAL EXAM:
- General: Awake, cooperative, lying in bed, flat affect
- HEENT: NC/AT
- Pulmonary: no increased WOB
- Cardiac: well perfused 
- Abdomen: soft, nontender, nondistended
- Extremities: no edema, pulses palpated
- Skin: multiple excoriations, hyperpigmented patches and 
plaques
over legs, arms, torso

Neurologic:

-Mental Status: Flat affect, soft spoken. Alert, oriented x 3.
Able to relate some history, but wife has to provide details.
Language is fluent with intact repetition and comprehension.
Speech slightly dysarthric at times.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-DTRs:  
       [Bic] [___] [Quad] 
     L  2+     2+      2+       
     R  2+     2+      2+         

Downgoing toes

-Sensory: No deficits to light touch, temperature

-Coordination: No intention tremor. No dysmetria on FNF 
bilaterally.

-Gait: Narrow stance, festinating-type gait w/ no arm swing
 
Pertinent Results:
___ 05:05AM BLOOD WBC-5.1 RBC-4.15* Hgb-12.5* Hct-35.7* 
MCV-86 MCH-30.1 MCHC-35.0 RDW-12.6 RDWSD-38.9 Plt ___
___ 07:50PM BLOOD WBC-8.0 RBC-4.42* Hgb-13.0* Hct-37.6* 
MCV-85 MCH-29.4 MCHC-34.6 RDW-12.6 RDWSD-39.1 Plt ___
___ 05:05AM BLOOD ___ PTT-24.2* ___
___ 05:05AM BLOOD Glucose-104* UreaN-21* Creat-0.9 Na-145 
K-3.8 Cl-105 HCO3-27 AnGap-13
___ 07:50PM BLOOD Glucose-117* UreaN-24* Creat-1.0 Na-141 
K-4.2 Cl-100 HCO3-25 AnGap-16
___ 05:05AM BLOOD ALT-24 AST-31
___ 05:05AM BLOOD Calcium-9.0 Phos-3.3 Mg-2.1
___ 07:50PM BLOOD Calcium-9.6 Phos-4.1 Mg-2.1

___ EEG:
Mild generalized slowing
 
Brief Hospital Course:
Mr. ___ was admitted from ___ clinic due to recent 
auditory hallucinations concerning for temporal lobe seizures. 
Upon arrival to floor he was placed on EEG at bedside. After 
discussion w/ pt and family, it seemed that recent increase in 
Abilify may have amplified his apparent akithisia. This 
medication was decreased from 15mg daily to 5mg daily. cvEEG 
showed mild gneeralized slowing but no epileptiform features or 
seizures. A bedside LP was performed on ___ with benign basic 
studies. Autoimmune/paraneoplastic panels and ___ protein to 
evaluate for CJD were sent. He was evaluated by ___ and was 
cleared for home.  

Tranisitional Issues:
-Follow up with Neuro-Oncology
-Follow up with outpt endocrinologist in near future to discuss 
evaluation of adrenal function
-___ studies
 
Medications on Admission:
ARIPIPRAZOLE [ABILIFY] - Abilify 10 mg tablet. 1.5 tablet(s) by
mouth daily -  (Prescribed by Other Provider)
ATORVASTATIN - atorvastatin 10 mg tablet. 1 tablet(s) by mouth 
at
bedtime -  (Prescribed by Other Provider)
 
Discharge Medications:
1.  ARIPiprazole 5 mg PO DAILY 
RX *aripiprazole 5 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0 
2.  Atorvastatin 10 mg PO QPM  
3.  Ramelteon 8 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Altered mental status

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
 Dear Mr. ___,  

 You were hospitalized for inpatient EEG monitoring to evaluate 
for seizure activity. We also performed a lumbar puncture in 
order to test the fluid around your spine to evaluate for other 
causes of your symptoms. 
 We are changing your medications as follows:  
 - Decrease Abilify (Risperidone) to 5 mg DAILY  
 Please take your other medications as prescribed.  
 Please follow up with Neurology and your primary care physician 
as listed below.  
 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). 
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 Sincerely,  
 Your ___ Neurology Team  
 
Followup Instructions:
___